US07338959B2
tert-butyl 5-[(2-chloropyrimidin-4-yl)amino]-1-methyl-1H-benzimidazol-2-ylcarbamate
To a solution of N5-(2-chloropyrimidin-4-yl)-1-methyl-1H-benzimidazole-2,5-diamine (200 mg, 0.728 mmol) in THF (10 ml), was added triethylamine (0.101 ml, 0.728 mmol) and di-tert-butyl dicarbonate (175 mg, 0.801 mmol). After stirring 16 h at roomtemperature, the reaction was diluted with water and extracted with EtOAc. The combined organic layers were washed with water, dried over MgSO4 and concentrated in vacuo. 1H NMR (400 MHz, d6-DMSO) δ 9.92 (s, 1H), 8.09 (d, J=5.8 Hz, 1H), 7.74 (br s, 1H), 7.21-7.19 (m, 2H), 7.02 (d, J=8.2 Hz, 1H), 6.66 (d, J=5.9 Hz, 1H), 3.24 (s, 3H), 1.61 (s, 9H).

reactant | N5-(2-chloropyrimidin-4-yl)-1-methyl-1H-benzimidazole-2,5-diamine | 0.728 mmol, 200 mg | ClC1=NC=CC(=N1)NC1=CC2=C(N(C(=N2)N)C)C=C1 | C12H11ClN6
reactant | triethylamine | 0.728 mmol, 0.101 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.801 mmol, 175 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 5-[(2-chloropyrimidin-4-yl)amino]-1-methyl-1H-benzimidazol-2-ylcarbamate | ClC1=NC=CC(=N1)NC1=CC2=C(N(C(=N2)NC(OC(C)(C)C)=O)C)C=C1 | C17H19ClN6O2
